US04843087
To a solution of 6.4 g 3-methylisothiazole in 100 ml dry tetrahydrofuran at -78° C. under nitrogen was slowly added 7.6 ml n-butyllithium (9.5 m). After 15 min. at -78° C., a solution of 12.0 g 1-bromo-5-chloropentane in 10 ml dry ether was added. The reaction mixture was allowed to reach room temperature where it was stirred for 90 min., then diluted with ether, washed with water and sodium chloride solution, and dried over sodium sulfate. Concentration and flash filtration (silica gel, 4:1 hexane/ethyl acetate) gave 6.5 g of 5-(5-chloropentyl)-3-methylisothiazole as a red oil, sufficiently pure (NMR) for use in the subsequent reaction.

reactant | 3-methylisothiazole | 6.4 g | CC1=NSC=C1 | C4H5NS
reactant | n-butyllithium | 7.6 ml | C(CCC)[Li]
reactant | 1-bromo-5-chloropentane | 12.0 g | BrCCCCCCl | C5H10BrCl
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 5-(5-chloropentyl)-3-methylisothiazole | 6.5 g | ClCCCCCC1=CC(=NS1)C | C9H14ClNS
